US04115575
A solution of 4.1 g of m-chloroperbenzoic acid in 30 ml of dichloromethane is added over the course of 10 minutes to a solution of 4.8 g of 3-isopropyl-5-[(6-methylpyridin-3-yloxy)methyl]-oxazolidin-2-one in 50 ml of dichloromethane, whilst stirring, and the mixture is left to stand overnight at room temperature. After dilution with 50 ml of dichloromethane the reaction mixture is extracted with 30 ml of saturated potassium bicarbonate solution at a time, dried over sodium sulphate and evaporated in vacuo. The crystalline residue is recrystallised from dichloromethane - ether. 3-[(3-Isopropyl-oxazolidin-2-on-5-yl)methoxy]-6-methyl-pyridine-1-oxide, thus obtained, melts at 137°-139° C.

reactant | m-chloroperbenzoic acid | 4.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-isopropyl-5-[(6-methylpyridin-3-yloxy)methyl]-oxazolidin-2-one | 4.8 g | C(C)(C)N1C(OC(C1)COC=1C=NC(=CC1)C)=O | C13H18N2O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[(3-Isopropyl-oxazolidin-2-on-5-yl)methoxy]-6-methyl-pyridine-1-oxide | C(C)(C)N1C(OC(C1)COC=1C=[N+](C(=CC1)C)[O-])=O | C13H18N2O4
